US09359362B2
N2-{(7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}glycinamide
Under an atmosphere of argon protective gas and at 0° C., HATU (25 mg, 66 μmol, 3 eq.) and triethylamine (11 mg, 110 μmol, 5 eq.) were added to a solution of N-{(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}glycine (10.5 mg, 22 μmol) in DMF (1 ml). After the reaction mixture has thawed to RT, it was once more cooled to 0° C., and a 0.5 M solution of ammonia in dioxane (0.44 ml, 219 μmol, 10 eq.) was then added. The mixture was stirred for 2 h, during which time it gradually warmed to RT. The reaction mixture was then concentrated under reduced pressure and the residue was purified by preparative HPLC (Kromasil C18 column, 50×20 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (9.2 mg, 88% of theory).

reactant | HATU | 66 μmol, 25 mg, 3 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 110 μmol, 11 mg, 5 eq. | C(C)N(CC)CC | C6H15N
reactant | N-{(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}glycine | 22 μmol, 10.5 mg | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)NCC(=O)O)C2=CC(=CC=C2)C(F)(F)F)C | C23H16F3N7O2
reactant | ammonia | N | H3N
reactant | dioxane | 219 μmol, 0.44 ml, 10 eq. | O1CCOCC1 | C4H8O2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N2-{(7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}glycinamide | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)NCC(=O)N)C2=CC(=CC=C2)C(F)(F)F)C | C23H17F3N8O
